US05538940
Preparation of ethyl (E)-β-ethoxy-2-methylcinnamate (Compound No. 1.51 in Table 1)
19.2 g (100 mmol) of methyl 2-methylbenzoylacetate and 17.7 g of triethyl orthoformate in 40 ml of ethanol plus 0.4 ml of concentrated sulfuric acid are refluxed for 16 hours. After cooling, 2 ml of pyridine are added and the mixture is then concentrated. The residue is taken up in methyl t-butyl ether and extracted 2×with water. The organic phase is dried over sodium sulfate and concentrated. The crude product contains in addition to the title compound about 15% of the corresponding (E) methyl ester (Compound No. 1.47). Distillation results in 16.5 g (75%) of the title compound as colorless oil. 1H-NMR (CDCl3): δ=1.05 (3H, t); 1.37 (3H, t); 2.25 (3H, s); 3.97 (2H, q); 3.99 (2H, q); 5.32 (1H, s); 7.1-7.3 (4H, m) ppm.

reactant | methyl 2-methylbenzoylacetate | 100 mmol, 19.2 g | CC1=C(C(=O)CC(=O)OC)C=CC=C1 | C11H12O3
reactant | triethyl orthoformate | 17.7 g | C(OCC)(OCC)OCC | C7H16O3
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | sulfuric acid | 0.4 ml | S(O)(O)(=O)=O | H2O4S
product | ethyl (E)-β-ethoxy-2-methylcinnamate | 16.5 g, 75% | C(C)O/C(=C/C(=O)OCC)/C1=C(C=CC=C1)C | C14H18O3
